US04975454
Stage B: Ethyl (E)-3-Methyl-4-Oxo-2-Butenoate
50 mmol of ethyl (E+Z)-4,4-dimethoxy-3-methyl-2-butenoate are placed in a buffered acetic medium (3 g of sodium acetate, 1.5 ml of water, 30 ml of acetic acid). The reaction medium is heated to 100° C. for 5 hours and the solvents are then removed under vacuum. After the residue is taken up with water and 100 ml of diethyl ether are added, the organic phase is separated and washed with 100 ml of saturated sodium chloride solution. After drying and evaporation of the solvents, purification is performed by distillation under vacuum, and yields the E stereoisomer.

reactant | acetic | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | sodium acetate | 3 g | C(C)(=O)[O-].[Na+]
reactant | water | 1.5 ml | O | H2O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | Ethyl (E)-3-Methyl-4-Oxo-2-Butenoate | C\C(=C/C(=O)OCC)\C=O | C7H10O3
